US09029391B2
A mixture of methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate (33 mg, 0.068 mmol), ethylamine HCl (11.06 mg, 0.136 mmol), and Hunig's base (47.4 μl, 0.271 mmol) in N,N-Dimethylformamide (DMF) (631 μl) was degassed with N2 for 8 min, and then treated with Pd(OAc)2 (1.5 mg, 6.78 μmol) and 1,3-bis(diphenylphosphino)propane (2.80 mg, 6.78 μmol). The reaction was placed under vacuum, filled and purged with N2 3×, followed by CO 3×. The reaction was stirred at 50 psi (CO) at 80° C. overnight. Additional DMF (1 mL), ethylamine HCl (11.06 mg, 0.136 mmol), and Hunig's base (47.4 μl, 0.271 mmol) were added, the reaction was degassed with N2 for 5 min, treated with Pd(OAc)2 (1.523 mg, 6.78 μmol) and 1,3-bis(diphenylphosphino)propane (2.80 mg, 6.78 μmol), filled and purged with N2 3×, CO 3×, and stirred at 80° C. under 50 psi of CO for 5 hours. The mixture was filtered, extracted with EtOAc, washed with water, brine, dried with Na2SO4, filtered, and concentrated. The residue was purified by column chromatography (0-100% EtOAc/Hexane, followed with 0-20% MeOH/DCM) to afford methyl [(1,1-dimethylethyl)oxy]{4-(3,4-dimethylphenyl)-7-[(ethylamino)carbonyl]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl}acetate (9.3 mg, 0.019 mmol, 28.6% yield); LC/MS (m/z) ES+=479 (M+1).

reactant | methyl [7-bromo-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl][(1,1-dimethylethyl)oxy]acetate | 0.068 mmol, 33 mg | BrC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)OC)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C25H28BrNO4
reactant | ethylamine HCl | 0.136 mmol, 11.06 mg | Cl.C(C)N
reactant | Hunig's base | 0.271 mmol, 47.4 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,3-bis(diphenylphosphino)propane | 6.78 μmol, 2.80 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | ethylamine HCl | 0.136 mmol, 11.06 mg | Cl.C(C)N
reactant | Hunig's base | 0.271 mmol, 47.4 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,3-bis(diphenylphosphino)propane | 6.78 μmol, 2.80 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | N,N-Dimethylformamide | 631 μl | CN(C=O)C | C3H7NO
reactant | DMF | 1 mL | CN(C=O)C | C3H7NO
catalyst | Pd(OAc)2 | 6.78 μmol, 1.5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(OAc)2 | 6.78 μmol, 1.523 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl [(1,1-dimethylethyl)oxy]{4-(3,4-dimethylphenyl)-7-[(ethylamino)carbonyl]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinyl}acetate | 0.019 mmol, 9.3 mg, 28.6% yield | CC(C)(C)OC(C(=O)OC)C=1N(C(C2=CC(=CC=C2C1C1=CC(=C(C=C1)C)C)C(=O)NCC)=O)C | C28H34N2O5
